US06410732B2
A mixture of 13.0 g of 3-methoxyacridan (57.7 mmol), 259 mg of Pd(OAc)2 (1.15 mmol), 187 g of tri-t-butylphosphine (0.92 mmol), 8.32 g of sodium t-butoxide (86.6 mmol), and 10.9 g of bromobenzene (69.2 mmol) in 100 mL of dry toluene was stirred under inert atmosphere at room temperature for 18 h. The reaction mixture was poured into a mixture of 300 mL of CH2Cl2 and 100 g of silica gel. The mixture was filtered, washed with an additional 500 mL of CH2Cl2, and the solids were discarded. The filtrate was concentrated in vacuo to afford a yellow solid. The solid was triturated in 100 mL of hexanes, filtered, washed with an additional 100 mL of hexanes, and dried to afford 13.8 g of N-phenyl-3-methoxyacridan, by NMR analysis (83%).

reactant | 3-methoxyacridan | 57.7 mmol, 13.0 g | COC=1C=CC=2CC3=CC=CC=C3NC2C1 | C14H13NO
reactant | tri-t-butylphosphine | 0.92 mmol, 187 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium t-butoxide | 86.6 mmol, 8.32 g | CC(C)([O-])C.[Na+]
reactant | bromobenzene | 69.2 mmol, 10.9 g | BrC1=CC=CC=C1 | C6H5Br
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 1.15 mmol, 259 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | N-phenyl-3-methoxyacridan | 13.8 g | C1(=CC=CC=C1)N1C=2C=C(C=CC2CC2=CC=CC=C12)OC | C20H17NO
